US08492582B2
A 1.0 mol/L tetrabutylammonium fluoride-tetrahydrofuran solution (0.56 mL) was added to a tetrahydrofuran (3.2 mL) solution of the obtained tert-butyl 2-(2-(benzyloxy)-5-(4-(tert-butyldimethylsilyloxy)piperidin-1-yl)benzamido)-4-phenylbenzoate (0.32 g), followed by stirring at room temperature for 1 hour. A 1.0 mol/L tetrabutylammonium fluoride-tetrahydrofuran solution (0.28 mL) was added to the reaction mixture, followed by stirring at room temperature for 4 hours. Water was added to the reaction mixture under ice-cooling, and chloroform was added thereto at room temperature. The organic layer was separated, washed with a saturated aqueous solution of sodium chloride, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography [eluent: 90-40% hexane/ethyl acetate] to obtain 0.23 g of tert-butyl 2-(2-(benzyloxy)-5-(4-hydroxypiperidin-1-yl)benzamido)-4-phenylbenzoate.

reactant | tetrabutylammonium fluoride tetrahydrofuran | 1.0 mol/L, 0.56 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC.O1CCCC1
reactant | tetrahydrofuran | 3.2 mL | O1CCCC1 | C4H8O
reactant | tert-butyl 2-(2-(benzyloxy)-5-(4-(tert-butyldimethylsilyloxy)piperidin-1-yl)benzamido)-4-phenylbenzoate | 0.32 g | C(C1=CC=CC=C1)OC1=C(C(=O)NC2=C(C(=O)OC(C)(C)C)C=CC(=C2)C2=CC=CC=C2)C=C(C=C1)N1CCC(CC1)O[Si](C)(C)C(C)(C)C | C42H52N2O5Si
reactant | tetrabutylammonium fluoride tetrahydrofuran | 1.0 mol/L, 0.28 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC.O1CCCC1
reactant | Water | O | H2O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | tert-butyl 2-(2-(benzyloxy)-5-(4-hydroxypiperidin-1-yl)benzamido)-4-phenylbenzoate | 0.23 g | C(C1=CC=CC=C1)OC1=C(C(=O)NC2=C(C(=O)OC(C)(C)C)C=CC(=C2)C2=CC=CC=C2)C=C(C=C1)N1CCC(CC1)O | C36H38N2O5
